US05623086
A 300-mL autoclave was charged with 40 mL (0.50 mol) of 3,4-epoxy-1-butene, 67.3 g (0.66 mol) acetic anhydride, 5.82 g (0.097 mol) of acetic acid and 4.2 mL of diglyme. The autoclave was purged with nitrogen twice, then the vessel was pressurized to 8 bars (100 psig) with nitrogen. The agitator was started and an initial sample was taken. The mixture was heated to 125° C. During the course of 2.5 hrs, samples were taken every 15 min for analysis by GC. GC analysis of the crude mixture after 2.5 hrs revealed 11% yield of 3,4-diacetoxy-1-butene with a 13% selectivity, 21% 3,4-epoxy-1-butene and numerous high boiling components. The reaction was observed to be first order in 3,4-epoxy-1-butene with a first order rate constant (Kfirst) of 0.0025 min-1 (Table A). This example illustrates low yield and selectivity in the absence of a tertiary amine and the inefficient catalysis of the reaction in the presence of the carboxylic acid alone.

reactant | 3,4-epoxy-1-butene | 0.50 mol, 40 mL | O1C(C=C)C1 | C4H6O
reactant | acetic anhydride | 0.66 mol, 67.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 0.097 mol, 5.82 g | C(C)(=O)O | C2H4O2
solvent | diglyme | 4.2 mL | COCCOCCOC | C6H14O3
product | 3,4-diacetoxy-1-butene | 11% yield | C(C)(=O)OC(C=C)COC(C)=O | C8H12O4
